US08895313B2
4-Dimethylamino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Amination section using sodium cyanoborohydride (67 mg, 1.06 mmol), 4-amino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (80 mg, 0.213 mmol) and paraformaldehyde (64 mg, 2.13 mmol) in AcOH (2 ml) to give the title compound (49 mg, 57%) as colourless needles after recrystallisation from EtOH.

reactant | sodium cyanoborohydride | 1.06 mmol, 67 mg | C(#N)[BH3-].[Na+]
reactant | 4-amino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.213 mmol, 80 mg | NC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1 | C21H17N3O2S
reactant | paraformaldehyde | 2.13 mmol, 64 mg | C=O | CH2O
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
product | 4-Dimethylamino-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 49 mg, 57% | CN(C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)C | C23H21N3O2S
